US08420849B2
2-(3-Fluorophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (6.2 mL) solution of 2-(3-fluorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (0.61 g, 2.58 mmol, purity: 78%) was cooled to −40° C., and to this solution, a chloroform (1.2 mL) solution of sulfuryl chloride (0.21 mL, 1.0 equivalent amount) was dropwise added over a period of 3 minutes. The temperature of the solution was raised to 0° C., and water (1.2 mL) was dropwise added over a period of 1 minute, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a saturated sodium hydrogencarbonate aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was isolated and purified by column chromatography (eluent: hexane/ethyl acetate=5/1 (v/v)) to give the desired product as a green solid (0.27 g, yield: 44%).

reactant | chloroform | 6.2 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(3-fluorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 2.58 mmol, 0.61 g | FC=1C=C(C=CC1)C1SCC(=C1O)C(=O)C | C12H11FO2S
reactant | chloroform | 1.2 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 0.21 mL, 1.0 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 1.2 mL | O | H2O
product | 2-(3-Fluorophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 0.27 g, yield: 44% | FC=1C=C(C=CC1)C=1SC=C(C1O)C(=O)C | C12H9FO2S
